US07741341B2
50 mg (0.08 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid were dissolved in 6 mL DMF. Subsequently 27.6 mg KI, 126.5 mg (0.88 mmol) K2CO3 and 62.8 mg (0.64 mmol) chloro-acetic acid were added. The resulting mixture was stirred for 8 h at 60° C. Further 92 mg K2CO3 and 62.8 mg (0.64 mmol) chloro-acetic acid were added. After further 8 h at 60° C. the reaction mixture was concentrated under removed pressure. The remaining residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) to give pure 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid carboxymethyl ester as a white amorphous solid. The corresponding dihydrochloride was obtained by treatment with a 0.1 M HCl-solution and following lyophilization.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.08 mmol, 50 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
reactant | K2CO3 | 0.88 mmol, 126.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | chloro-acetic acid | 0.64 mmol, 62.8 mg | ClCC(=O)O | C2H3ClO2
reactant | K2CO3 | 92 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | chloro-acetic acid | 0.64 mmol, 62.8 mg | ClCC(=O)O | C2H3ClO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid carboxymethyl ester | C(=O)(O)COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2CCN(CC2)C(C)C)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl | C27H28ClN5O6S
